### PR TITLE
[Merged by Bors] - feat(CategoryTheory/ChosenFiniteProducts): `prodComparison` and `terminalComparison` for `ChosenFiniteProducts`

### PR DESCRIPTION
**Pull request by robin-carlier**
Given a functor `F : C ⥤ D` between categories with chosen finite products and `A B : C`, introduce `terminalComparison F : F (𝟙_ C) ⟶ 𝟙_ D` and `prodComparison F A B : F (A ⊗ B) ⟶ F A ⊗ F B` the canonical maps.

- Show that `terminalComparison` is an isomorphism if and only if `F` preserves terminal objects.
- Show that the canonical map `prodComparison F A B` is natural in `A` and `B` and compatible with composition.
- Show that `F` preserves binary products if and only if `prodComparison F A B` is an isomorphism for all `A B`.

---

This development mirrors the ones already existing in `CategoryTheory/Limits/Preserves/Shapes/BinaryProducts` and `CategoryTheory/Limits/Preserves/Shapes/Terminal`. Some names are even identical but should not clash as they are in the `ChosenFiniteProducts` namespace. Will be used in #17613.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by robin-carlier** [comment]
I added a few extra naturality lemmas, as I noticed that in practice one sometimes uses the naturality of the prodComparison map with maps of the form `A ◁ g` or `f ▷ B`, and that it would be useful to also state things in terms of them as well.

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 1]
```diff
@@ -195,6 +195,247 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+
+variable {D : Type u₁} [Category.{v₁} D] [ChosenFiniteProducts D] (F : C ⥤ D)
+
+section terminalComparison
+
+/-- When `C` and `D` have chosen finite products and `F : C ⥤ D` is any functor,
+`terminalComparison F` is the unique map `F (𝟙_ C) ⟶ 𝟙_ D`. -/
+abbrev terminalComparison : F.obj (𝟙_ C) ⟶ 𝟙_ D := toUnit _
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:208]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 2]
```diff
@@ -195,6 +195,247 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+
+/-- If `terminalComparison F` is an Iso, then `F` preserves terminal objects. -/
+noncomputable def preservesLimitEmptyOfIsIsoTerminalComparison [IsIso (terminalComparison F)] :
+    PreservesLimit (Functor.empty.{0} C) F := by
+  apply preservesLimitOfPreservesLimitCone terminal.isLimit
+  apply isLimitChangeEmptyCone D terminal.isLimit
+  exact asIso (terminalComparison F)|>.symm
+
+/-- If `F` preserves terminal objects, then `terminalComparison F` is an isomorphism. -/
+def PreservesTerminalIso [h : PreservesLimit (Functor.empty.{0} C) F] : F.obj (𝟙_ C) ≅ 𝟙_ D :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:222]:
```suggestion
def preservesTerminalIso [h : PreservesLimit (Functor.empty.{0} C) F] : F.obj (𝟙_ C) ≅ 𝟙_ D :=
```

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 3]
```diff
@@ -195,6 +195,247 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+  (isLimitChangeEmptyCone D (h.preserves terminal.isLimit) (asEmptyCone (F.obj (𝟙_ C)))
+    (Iso.refl _)).conePointUniqueUpToIso terminal.isLimit
+
+@[simp]
+lemma PreservesTerminalIso_hom [PreservesLimit (Functor.empty.{0} C) F] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:227]:
```suggestion
lemma preservesTerminalIso_hom [PreservesLimit (Functor.empty.{0} C) F] :
```

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 4]
```diff
@@ -195,6 +195,247 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+
+@[reassoc (attr := simp)]
+theorem prodComparison_fst : prodComparison F A B ≫ fst _ _ = F.map (fst A B) :=
+  lift_fst _ _
+
+@[reassoc (attr := simp)]
+theorem prodComparison_snd : prodComparison F A B ≫ snd _ _ = F.map (snd A B) :=
+  lift_snd _ _
+
+@[reassoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:254]: Why not `simp`?

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 5]
```diff
@@ -195,6 +195,247 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+      prodComparison_fst_assoc, prodComparison_snd, whiskerRight_snd, ← F.map_comp]
+
+/-- The natural isomorphism `F(A ⊗ -) ≅ FA ⊗ F-`, provided each `prodComparison F A B` is an
+isomorphism (as `B` changes). -/
+@[simps]
+noncomputable def prodComparisonNatIso (A : C)
+    [∀ B, IsIso (prodComparison F A B)] :
+    (curriedTensor C).obj A ⋙ F ≅ F ⋙ (curriedTensor D).obj (F.obj A) := by
+  refine { @asIso _ _ _ _ _ (?_) with hom := prodComparisonNatTrans F A }
+  apply NatIso.isIso_of_isIso_app
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:350]: In order to avoid the `@asIso _ _ _ _ _`, I would define as something like:
```lean
... :=
  letI : IsIso (prodComparisonNatTrans F A) := sorry
  asIso (prodComparisonNatTrans F A)
```

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean (hunk 4 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/ChosenFiniteProducts.lean]: For no reason other that I forgot.

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean (hunk 5 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/ChosenFiniteProducts.lean]: Going this way breaks the `@[simps]` so we need to add `_hom` lemmas by hand, and due to some repetitions with below code I figured it’s best to add those instances anyway, but I agree that it’s more satisfying this way.

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 6]
```diff
@@ -195,6 +195,263 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+
+
+instance (A : C) [∀ B, IsIso (prodComparison F A B)] : IsIso (prodComparisonNatTrans F A) := by
+  letI : ∀ X, IsIso ((prodComparisonNatTrans F A).app X) := by assumption
+  apply NatIso.isIso_of_isIso_app
+
+instance [h : ∀ A B, IsIso (prodComparison F A B)] : IsIso (prodComparisonBifunctorNatTrans F) := by
+  letI : ∀ X, IsIso ((prodComparisonBifunctorNatTrans F).app X) :=
+    fun _ ↦ (by dsimp; apply NatIso.isIso_of_isIso_app)
+  apply NatIso.isIso_of_isIso_app
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:351]: Parentheses are unnecessary, and the name `h` does not seem to be used: 
```suggestion
instance [∀ A B, IsIso (prodComparison F A B)] : IsIso (prodComparisonBifunctorNatTrans F) := by
  letI : ∀ X, IsIso ((prodComparisonBifunctorNatTrans F).app X) :=
    fun _ ↦ by dsimp; apply NatIso.isIso_of_isIso_app
  apply NatIso.isIso_of_isIso_app
```

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 7]
```diff
@@ -195,6 +195,263 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+    [∀ A B, IsIso (prodComparison F A B)] :
+    curriedTensor C ⋙ (whiskeringRight _ _ _).obj F ≅
+      F ⋙ curriedTensor D ⋙ (whiskeringLeft _ _ _).obj F :=
+  asIso (prodComparisonBifunctorNatTrans F)
+
+@[simp]
+lemma prodComparisonBifunctorsNatIso_hom [∀ A B, IsIso (prodComparison F A B)] :
+    (prodComparisonBifunctorsNatIso F).hom = prodComparisonBifunctorNatTrans F := rfl
+
+theorem prodComparison_comp {E : Type u₂} [Category.{v₂} E] [ChosenFiniteProducts E] (G : D ⥤ E) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:378]: You may also add a `prodComparison_id` lemma for the identity functor.

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 8]
```diff
@@ -195,6 +195,263 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+/-- If `F` preserves the limit of the pair `(A, B)`, then the binary fan given by
+`(F.map fst A B, F.map (snd A B))` is a limit cone. -/
+def isLimitChosenFiniteProductsOfPreservesLimits :
+    IsLimit <| BinaryFan.mk (F.map (fst A B)) (F.map (snd A B)) :=
+  mapIsLimitOfPreservesOfIsLimit F (fst _ _) (snd _ _) <|
+    (product A B).isLimit.ofIsoLimit <| isoBinaryFanMk (product A B).cone
+
+/-- If `F` preserves the limit of the pair `(A, B)`, then `prodComparison F A B` is an isomorphism.
+-/
+def prodComparisonIso : F.obj (A ⊗ B) ≅ F.obj A ⊗ F.obj B :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:400]: I would that the standard form of the assumptions that a functor "preserves" chosen finite products should be using `PreservesLimit...`. Then, for future applications, it may be better to define `prodComparisonNatIso ` and `prodComparisonBifunctorNatIso` under `PreservesLimit` assumption, rather than `IsIso` assumptions, do not you think?

Comment (joelriou) [reply Mathlib/CategoryTheory/ChosenFiniteProducts.lean:400]: (Otherwise, `prodComparisonIso` should not very much be a definition, but rather a step in the proof of `isIso_prodComparison_of_preservesLimit_pair`.)

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 9]
```diff
@@ -195,6 +195,263 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+      F ⋙ curriedTensor D ⋙ (whiskeringLeft _ _ _).obj F where
+  app A := prodComparisonNatTrans F A
+  naturality x y f := by
+    ext z
+    apply hom_ext <;>
+    simp only [Functor.comp_obj, whiskeringRight_obj_obj, curriedTensor_obj_obj,
+      whiskeringLeft_obj_obj, Functor.comp_map, whiskeringRight_obj_map, NatTrans.comp_app,
+      whiskerRight_app, curriedTensor_map_app, prodComparisonNatTrans_app, Category.assoc,
+      prodComparison_fst, whiskeringLeft_obj_map, whiskerLeft_app, whiskerRight_fst,
+      prodComparison_fst_assoc, prodComparison_snd, whiskerRight_snd, ← F.map_comp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:341]: As this proof is very fast, I would suggest using this syntax:
```suggestion
    apply hom_ext <;> simp [← Functor.map_comp]
```
Same for `prodComparisonNatTrans`.

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 10]
```diff
@@ -195,6 +195,263 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+    (curriedTensor C).obj A ⋙ F ≅ F ⋙ (curriedTensor D).obj (F.obj A) :=
+  asIso (prodComparisonNatTrans F A)
+
+@[simp]
+lemma prodComparisonNatIso_hom (A : C) [∀ B, IsIso (prodComparison F A B)] :
+    (prodComparisonNatIso F A).hom = prodComparisonNatTrans F A := rfl
+
+/-- The natural isomorphism of bifunctors `F(- ⊗ -) ≅ F- ⊗ F-`, provided each
+`prodComparison F A B` is an isomorphism. -/
+@[simps!]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:367]: This way, we would already generate suitable lemmas:
```suggestion
@[simps! hom inv]
```

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean (hunk 8 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/ChosenFiniteProducts.lean:428]: I wanted to stay as close as possible to the API for usual products that uses `IsIso` for everything, but I guess it’s indeed better to have `PreservesLimits` assumptions instead.

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean (hunk 7 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/ChosenFiniteProducts.lean]: Yes. For completeness I also added `_comp` and `_id` lemmas for the natural transforms as well.

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 11]
```diff
@@ -228,6 +228,271 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+-/
+def prodComparisonIso : F.obj (A ⊗ B) ≅ F.obj A ⊗ F.obj B :=
+  IsLimit.conePointUniqueUpToIso (isLimitChosenFiniteProductsOfPreservesLimits F A B)
+    (product _ _).isLimit
+
+@[simp]
+lemma prodComparisonIso_hom : (prodComparisonIso F A B).hom = prodComparison F A B := by
+  rfl
+
+instance isIso_prodComparison_of_preservesLimit_pair: IsIso (prodComparison F A B) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:432]:
```suggestion
instance isIso_prodComparison_of_preservesLimit_pair : IsIso (prodComparison F A B) := by
```

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 12]
```diff
@@ -228,6 +228,271 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+isomorphism (as `B` changes). -/
+@[simps! hom inv]
+noncomputable def prodComparisonNatIso (A : C) [∀ B, PreservesLimit (pair A B) F] :
+    (curriedTensor C).obj A ⋙ F ≅ F ⋙ (curriedTensor D).obj (F.obj A) :=
+  asIso (prodComparisonNatTrans F A)
+
+/-- The natural isomorphism of bifunctors `F(- ⊗ -) ≅ F- ⊗ F-`, provided each
+`prodComparison F A B` is an isomorphism. -/
+@[simps! hom inv]
+noncomputable def prodComparisonBifunctorsNatIso [∀ A B, PreservesLimit (pair A B) F] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:448]:
```suggestion
noncomputable def prodComparisonBifunctorNatIso [∀ A B, PreservesLimit (pair A B) F] :
```

File: Mathlib/CategoryTheory/ChosenFiniteProducts.lean [hunk 13]
```diff
@@ -228,6 +228,271 @@ instance (priority := 100) : Limits.HasFiniteProducts C :=
...
+end PreservesLimitPairs
+
+section ProdComparisonIso
+
+/-- If `prodComparison F A B` is an isomorphism, then `F` preserves the limit of `pair A B`. -/
+noncomputable def preservesLimitPairOfIsIsoProdComparison (A B : C) [IsIso (prodComparison F A B)] :
+    PreservesLimit (pair A B) F := by
+  apply preservesLimitOfPreservesLimitCone (product A B).isLimit
+  apply IsLimit.equivOfNatIsoOfIso (pairComp A B F) _
+    ((product (F.obj A) (F.obj B)).cone.extend (prodComparison F A B)) _|>.invFun
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts.lean:462]: Could you add the following definition in `Limits.Shapes.BinaryProducts`:
```lean
def BinaryFan.ext {A B : C} {c c' : BinaryFan A B} (e : c.pt ≅ c'.pt)
    (h₁ : e.hom ≫ c'.fst = c.fst) (h₂ : e.hom ≫ c'.snd = c.snd) : c ≅ c' :=
  sorry
```
as a particular case of more general missing `Fan.ext` which you should add in `Limits.Shapes.Products`.
Then, we can get a slightly better code here:
```suggestion
  apply preservesLimitOfPreservesLimitCone (product A B).isLimit
  refine IsLimit.equivOfNatIsoOfIso (pairComp A B F) _
    ((product (F.obj A) (F.obj B)).cone.extend (prodComparison F A B))
      (BinaryFan.ext (by exact Iso.refl _) ?_ ?_) |>.invFun
      (IsLimit.extendIso _ (product (F.obj A) (F.obj B)).isLimit)
```

**Comment by robin-carlier** [comment]
I added the `ext` lemmas for fans (and binary cofans, srangely enough `Cofan.ext` already existed), but did implement `BinaryFan.ext` as an application of `Fan.ext` to avoid extra imports, and since the proof are one line anyway. Thanks for the golf suggestion!

**Comment by joelriou** [comment]
Thanks!

bors merge
